US05922871
1-[N-[2-(Diethylamino)ethyl]carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene
By the same procedure as described in the example 45, synthesis was carried out starting with 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester and using N,N-diethylethylenediamine. Then, the product was recrystallized using isopropanol and hexane to give the desired compound.

reactant | 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)=O | C21H26N4O3
reactant | N,N-diethylethylenediamine | C(C)N(CCN)CC | C6H16N2
product | 1-[N-[2-(Diethylamino)ethyl]carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene | Yield: 76% | C(C)N(CCNC(=O)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)CC | C26H38N6O2
